US08492378B2
2-[3-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole
A mixture of 2-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole (447 mg, 1.46 mmol), 10% palladium carbon (50% containing water, 450 mg), tetrahydrofuran (5 mL) and methanol (15 mL) was stirred at room temperature for 48 hr under 1 atm hydrogen atmosphere. Palladium on carbon was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate), and crystallized from hexane/ethyl acetate to give the title compound (335 mg, yield 74%) as colorless crystals.

reactant | 2-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole | 1.46 mmol, 447 mg | COC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C18H14N2O3
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 450 mg | [C].[Pd]
solvent | methanol | 15 mL | CO | CH4O
product | 2-[3-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole | 335 mg, yield 74% | COC1=CC=C(C=C1)C1COC2=C1C=C(C=C2)C=2OC(=NN2)C | C18H16N2O3
